US09328099B2
A solution of n-butyllithium (2.8 mL, 7.0 mmol, 2.5 M in hexanes) was added to a solution of diisopropylamine (1.0 mL, 7.0 mmol) in THF (10.0 mL) at 78° C. The cooling bath was removed for 15 minutes, and then the reaction mixture was cooled back to 78° C. A solution of tert-butyl 3-oxopiperidine-1-carboxylate (1.0 g, 5.0 mmol) in THF (6 mL) was added to the cooled solution of LDA dropwise over 5 minutes, maintained for 15 minutes, and then N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (2.4 g, 6.0 mmol) was added in one portion. The reaction mixture was stirred at 78° C. for 15 minutes, and then the cooling bath was removed. The reaction mixture was stirred for 45 minutes after removal of the cooling bath, and was then partitioned between EtOAc and water. The organic layer was washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by MPLC on silica gel (using a gradient elution of 0-20%, diethyl ether/hexanes) to afford tert-butyl 5-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate as the second regioisomer to elute. A portion of the product (123 mg, 0.371 mmol) was combined with zinc cyanide (52 mg, 0.45 mmol), Pd(PPh3)4 (64 mg, 0.056 mmol) and DMF (1.9 mL) in a microwave tube. The reaction mixture was heated in the microwave at 100° C. for 20 minutes. After cooling to 23° C., the reaction mixture was partitioned between EtOAc and water. The organic layer was washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by MPLC on silica gel (using a gradient elution of 0-100%, EtOAc/hexanes) to afford the title compound.

reactant | n-butyllithium | 7.0 mmol, 2.5 M, 2.8 mL | C(CCC)[Li]
reactant | diisopropylamine | 7.0 mmol, 1.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl 3-oxopiperidine-1-carboxylate | 5.0 mmol, 1.0 g | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-[(trifluoromethyl)sulfonyl]methanesulfonamide | 6.0 mmol, 2.4 g | ClC=1C=CC(=NC1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | FC(S(=O)(=O)OC1=CCCN(C1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
